data/mechanism_extracts/ChinJOC/10.6023_cjoc202105046.json
{"doi": "10.6023_cjoc202105046", "journal": "ChinJOC", "is_review": false, "rxn_class_summary": "ArI-mediated electrochemical aziridination of electron-deficient alkenes using acetyl hydrazide-type N-source in an undivided cell", "mechanism_family": ["mediator_anodic", "nitrene"], "electrochemical_role": "Anodic oxidation of ArI to ArI(OAc)2 (hypervalent iodine, I(III)) which serves as the active mediator; cathodic reduction generates H2 and regenerates acetate, closing the electron cycle", "key_intermediates": [{"name": "ArI(OAc)2 (hypervalent iodine(III), intermediate A)", "smiles": null, "role": "reactive"}, {"name": "ArI(OAc)(NHFg) (iodine(III) species with I-O and I-N bonds, intermediate B)", "smiles": null, "role": "reactive"}, {"name": "Fg-NH-OAc (acetoxyamine, compound 6)", "smiles": null, "role": "reactive"}, {"name": "ArI=N-Fg (iodonitrene, compound 7)", "smiles": null, "role": "reactive"}, {"name": "acetate anion (OAc-)", "smiles": "CC(=O)[O-]", "role": "reactive"}], "electron_flow": "Anode oxidizes ArI to ArI(OAc)2 (A), which exchanges an OAc for the N-nucleophile (Fg-NH2) to give iodine(III) intermediate B bearing I-O and I-N bonds; B partitions into acetoxyamine 6 (releasing ArI) or iodonitrene 7 (releasing HOAc), and both deliver nitrogen to the alkene to give the aziridine in a stepwise manner. At the cathode, protons are reduced to H2, regenerating acetate.", "rate_determining_step": null, "probe_reagents": [{"name": "HRMS detection of reaction mixture", "smiles": null, "purpose": "intermediate_trap", "observation": "Species with masses matching compound 6 (HRMS 221.0568) and compound 7 (394.9892) both detected, supporting two coexisting pathways via acetoxyamine and iodonitrene"}], "evidence_types_used": ["isolation_of_intermediate", "intermediate_trap_other"], "evidence_strength": "medium", "notes": "Two parallel pathways are proposed (via acetoxyamine 6 and via iodonitrene 7), both leading to stepwise aziridination; the authors do not designate one as exclusively favored. Mechanism cites ref [10c] for the stepwise aziridination mode. No radical traps, KIE, or DFT reported on these pages."}
